US05716944
Methyl 7-cyclohexyl-1-tetralone-2-carboxylate (8.6 g) was dissolved in dichloromethane (40 ml)-methanol (50 ml). To this solution, sodium borohydride (1.13 g) was added in small portions at room temperature. The reaction mixture was poured into water (80 ml) and extracted with dichloromethane. The dichloromethane layer was successively washed with water and brine, and dried (MgSO4), after which the solvent was distilled off. The residual oil was dissolved in methanol (40 ml), followed by dropwise addition of 2N NaOH (45 ml) at room temperature and stirring for 1 hour. The reaction mixture was washed with ether; the aqueous layer was acidified with concentrated hydrochloric acid and extracted with dichloromethane. The dichloromethane layer was successively washed with water and brine, and dried (MgSO4), after which the solvent was evaporated off. To the residual oil, dioxane (25 ml) and concentrated hydrochloric acid (4.2 ml) were added, followed by stirring at 90° C. for 40 minutes, after which the mixture was concentrated under reduced pressure. After water was added, the residue was extracted with ethyl acetate. The ethyl acetate layer was successively washed with water and brine, and dried (MgSO4), after which the solvent was evaporated off, to yield 7-cyclohexyl-3,4-dihydronaphthalene-2-carboxylic acid (1.57 g, 20%), which was then recrystallized from ethanol to yield colorless prisms having a melting point of 179°-180° C.

reactant | Methyl 7-cyclohexyl-1-tetralone-2-carboxylate | 8.6 g | C1(CCCCC1)C1=CC=C2CCC(C(C2=C1)=O)C(=O)OC | C18H22O3
reactant | sodium borohydride | 1.13 g | [BH4-].[Na+]
reactant | water | 80 ml | O | H2O
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | methanol | 50 ml | CO | CH4O
product | 7-cyclohexyl-3,4-dihydronaphthalene-2-carboxylic acid | 1.57 g, 20% | C1(CCCCC1)C1=CC=C2CCC(=CC2=C1)C(=O)O | C17H20O2
